US04740519
In a manner analogous to Example 1(a), starting with 1.83 g (10 mmol) of methyl 3-mercapto-4-methyl benzoate, 1.5 ml of triethylamine and 2.76 g (11 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphtoyl chloride, methyl 4-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphtoylthio)benzoate (3.50 g; 88%) is produced.

reactant | methyl 3-mercapto-4-methyl benzoate | 10 mmol, 1.83 g | CC1=C(C=C(C=C1)C(=O)OC)S | C9H10O2S
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphtoyl chloride | 11 mmol, 2.76 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)Cl)C | C15H19ClO
solvent | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
product | methyl 4-methyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphtoylthio)benzoate | 3.50 g, 88% | CC1=C(C=C(C(=O)OC)C=C1)SC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H28O3S
